2141-08-17 08:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: None
   24 Hour Events:
   - Pericardiocentesis [**2141-8-17**] AM
 EKG - At [**2141-8-17**] 04:13 AM
 NASAL SWAB - At [**2141-8-17**] 04:13 AM
 TRANSTHORACIC ECHO - At [**2141-8-17**] 04:36 AM
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2141-8-17**] 07:43 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-17**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 99 (95 - 105) bpm
   BP: 134/91(100) {124/65(30) - 134/93(100)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
             647 mL
   PO:
             TF:
   IVF:
   647 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   GENERAL: obese female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. MMM. No xanthalesma.
   NECK: Supple with no JVD or HJR. No Kussmaul's.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No pericardial rub. No thrills, lifts. No S3
   or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, tender to palpation in RUQ and mild diffuse ttp. No
   guarding/rebound. No HSM.
   EXTREMITIES: 1+ edema R>L to shin
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO: no focal deficits
   PULSES:
   Right:  2+ DP 2+ PT 2+
   Left:   2+ DP 2+ PT 2+
   Labs / Radiology
   307
   12.3
   112
   0.6
   23
   3.4
   10
   99
   136
   35.4
   12.3
        [image002.jpg]
   Assessment and Plan
   44yF with pericardial effusion of unknown etiology as well as acute
   cholecystitis.
   .
   # Pericardial effusion with evidence of tamponade physiology:
   Patient with large pericardial effusion with evidence of tamponade
   physiology on echocardiogram and pulsus paradoxus. Currently
   hemodynamically stable. Unclear etiology and chronicity. Ddx includes
   viral pericarditis, idiopathic, malignancy associated, autoimmune,
   hypothyroidism, or other infections such as TB or HIV. She has no
   inflammatory signs or signs of underlying systemic disease. She does
   report recent sick contact, but no sx of viral infection recently. No
   risk factors for HIV or TB. Patient without any recent trauma, no renal
   failure, or other associated symptoms of infectious process. Patient
   has h/o PCOS, and there have been case reports of pericardial
   effusions/pleural effusions/ascites related to ovarian primary
   (hyperstimulation, cancer).
   - Pericardiocentesis this AM - 1st case. If placed drain puts out
   minimal fluid, can d/c
   - f/u ECHO on Friday
   -Analyze fluid from pericardiocentesis: TP, LDH, glucose, cell count,
   gram stain, cx, cytology
   - monitor hemodynamics, pulsus, monitor on telemetry
   - give IVF to optimize CO and avoid RV collapse
   - f/u TSH, consider workup of other causes of pericardial effusion such
   as autoimmune disease ([**Doctor First Name 1205**], RF?), do age appropriate malignancy
   screening as outpatient
   .
   # Acute cholecystitis: Patient presented with epigastric pain,
   bloating. RUQ U/S c/w acute cholecystitis. Slight transaminitis, bili
   normal, lipase 127. Gen [**Doctor First Name 458**] c/s rec conservative tx with abx for now.
   -general surgery following, appreciate recs
   -received Cipro/Flagyl in [**Location (un) 1415**], on Unasyn here.
   -Monitor WBC and fever curve
   -Keep NPO for possible intervention after pericardiocentesis
   (cholecystectomy vs. percutaneous drain)
   -? PICC for IV antibiotics.
   .
   # Hx seizure: Dilantin level low (6.4). Restarted on Dilantin.
   .
   #HTN: Patient unsure if taking HCTZ at home. Normotensive since
   admission. Cont HCTZ.
   .
   # CORONARIES: No hx CAD, no sx of ischemic heart disease at this time.
   .
   # PUMP: Patient takes HCTZ for leg swelling rather than HTN.
   Normotensive since admission, cont to monitor.
   .
   # RHYTHM: NSR
   -cont to monitor on tele
   .
   # PAIN MANAGEMENT:
   -give Tylenol for now, re-evaluate post-procedure
   .
   # h/o DVT: received IVC filter per patient as unable to anticoagulate
   at the time [**3-20**] recent neurosurgical procedure. Patient without noted
   LE edema, assymmetry.
   - SC heparin
   .
   ICU Care
   Nutrition: NS at 150 cc/hr X1L
   Glycemic Control:
   Lines:  Peripheral IVs
   20 Gauge - [**2141-8-17**] 04:07 AM
   Prophylaxis:
   DVT: SC heparin
   Pain: Tylenol
   Bowel: Senna and colace
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Husband [**Name (NI) 2897**] ([**Telephone/Fax (1) 9481**]
   .
   Code status: Full code (confirmed w/ pt)
   .
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 9428**].
   I would add the following remarks:
   History
   44 yr old woman transferred with cholecystitis because of finding of
   large pericardial effusion found on CT
   Evidence of tamponade on echo with pulsus 15-30 and mild tachycardia
   without hypotension
   730 cc of pericardial fluid drained today
   Physical Examination
   mild epigastric discomfort
   Medical Decision Making
   Continue antibiotics for cholecystitis with surgery followup.
   Pericardial drain out tomorrow with studies pending and repeat echo in
   AM
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 4943**], MD
   on:[**2141-8-17**] 12:27 ------

2141-08-18 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2141-8-17**]
   - Pericardial fluid studies suggestive of exudate, added fungal
   cultures, acid fast, cytology.  16,500 WBC w/ 92% 'other' cells,
   uncertain significance.
   - Heme Onc looked at the cells w/ microscopy, suspicious for lymphoma,
   needs to be confirmed w/ flow cytometry.  They will do full consult
   tomorrow, for now recommended daily LDH and tumor lysis labs.  Will
   need torso CT w/ contrast to assess for lymphadenopathy once drain from
   [**Female First Name (un) **] pulled.
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**]; ECHO on Friday. RF 9, TSH 3.2
   - started on clear fluids per surgery; IV Unasyn for [**3-21**] more days,
   then switch to PO.
   - Phenytoin level was low at 6.4mg.  Pt given extra 500mg divided into
   two loading doses. Will recheck blood level morning of [**8-18**].
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2141-8-18**] 01:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-8-17**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 87 (87 - 105) bpm
   BP: 109/76(83) {101/50(67) - 127/86(94)} mmHg
   RR: 27 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  2,601 mL
                                                                    416 mL
   PO:
                                                                    300 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,301 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  3,284 mL
                                                                    650 mL
   Urine:
                                                                  2,500 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                             784 mL in lab
                                               400 mL at MN, minimal since
   Balance:
                                                                   -683 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: obese female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: normo cephalic atraumatic. Mucous membranes moist. No
   xanthalesma.
   NECK: Supple with no JVD or HJR. No Kussmaul's.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No pericardial rub. No thrills, lifts. No S3
   or S4.
   LUNGS. Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, tender to palpation in RUQ and mild diffuse ttp. No
   guarding/rebound. No HSM.
   EXTREMITIES: 1+ edema R>L to shin, no cervical, axilary or femoral
   lymphadenopathy.
   NEURO: no focal deficits
   PULSES:
   Right:  2+ DP 2+ PT 2+
   Left:   2+ DP 2+ PT 2+
   Labs / Radiology
   286 K/uL
   12.2 g/dL
   96 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   5 mg/dL
   106 mEq/L
   142 mEq/L
   36.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2141-8-18**]  05:25 AM
   WBC
   9.6
   Hct
   36.2
   Plt
   286
   Cr
   0.5
   Glucose
   96
   Other labs: PT / PTT / INR:14.6/26.3/1.3, LDH:297 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   44yF with pericardial effusion of unknown etiology as well as acute
   cholecystitis.
   .
   # Pericardial effusion with evidence of tamponade physiology:
   Patient had 730 cc of drained exudate fluid from pericandial cavity.
   She has few symptoms suggesting that it could be chronic. Ddx includes
   viral pericarditis, idiopathic, malignancy associated, autoimmune,
   hypothyroidism, or other infections such as TB or HIV.  Pericardial
   fluid has [**Numeric Identifier 9490**] wbc with 92 pecent are highly atypical lymphocytes
   suspicious of lymphoproliferative process
   - echo today
   -flow cytometry pending
   -hem/onc consult to review patient and cytology results today
   - monitor hemodynamics, pulsus, monitor on telemetry
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**],HIV,blood cultures and pleural fluid culture
   - pericardial drain in place, will be removed today
   .
   # Acute cholecystitis: Patient presented with epigastric pain,
   bloating. RUQ U/S c/w acute cholecystitis. Slight transaminitis, bili
   normal, lipase 127. Gen [**Doctor First Name 458**] c/s rec conservative tx with abx for now.
   -Gen [**Doctor First Name 458**] following for possible need for cholecystectomy. Will monitor
   and reassess later.
   -on Unasyn IV as inpatient, plan to discharge on PO antibiotics.
   -Monitor WBC and fever curve
   .
   # Hx seizure: Dilantin level low (6.4). Restarted on Dilantin.
   - given dilantin dose last night and to monitor for serum dilantin
   level (still low today).
   .
   #HTN Cont HCTZ.
   .
   # CORONARIES: No hx CAD, no sx of ischemic heart disease at this time.
   .
   # PUMP: Patient takes HCTZ for leg swelling rather than HTN.
   Normotensive since admission, cont to monitor.
   .
   # RHYTHM: NSR
   -cont to monitor on tele
   .
   # PAIN MANAGEMENT:
   -give Tylenol for now
   .
   # h/o DVT: received IVC filter per patient as unable to anticoagulate
   at the time [**3-20**] recent neurosurgical procedure. Patient without noted
   LE edema, assymmetry.
   - SC heparin
   ICU Care
   Nutrition: clear fluid diet and to be advanced.
   Glycemic Control:
   Lines: Peripheral IV
   20 Gauge - [**2141-8-17**] 04:07 AM
   Prophylaxis:
   DVT:  sc heparin
   Communication:  with husband [**Name (NI) 2897**] ([**Telephone/Fax (1) 9481**]
   Code status: Full code
   Disposition:CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing toadd
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   unfortunately situation - likely malingnant pericardial effusion
   now tapped without continued drainage
   no clinical evidence of recurrent tamponade
   repeat echo - if dry pull drain
   CT of chest later today and formal Oncology evaluation
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **]
   on:[**2141-8-18**] 10:27 ------

2141-08-19 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: DOE; epigastric pain
   24 Hour Events:
   [**2141-8-18**]
   - TTE showed mild effusion inferiorly that would not be easily drained
   so drain pulled this afternoon at 3pm. ~100cc also taken out at that
   time, sent for Cytogenetics.
   - CT torso wet read: Soft tissue density/lobulated lesion near
   tricuspid valve requiring f/u w/ TTE vs. TEE. No LAD
   - Heme/Onc fellow discussed diagnosis of lymphoma w/ pt this afternoon
   - Plan to transfer to BMT, [**Hospital Ward Name 669**] 7 tomorrow
   - Started Allopurinol 300 daily in prep for onc treatments
   - Sent off DIC, tumor lysis labs
   - Gen [**Doctor First Name **] recs: Augmentin or cipro/flagyl X 2wks, f/u w/ Dr. [**First Name (STitle) **] for
   interval cholecystectomy within 2 weeks, advance diet as tol
   Allergies:
   Aspirin
   (Purpura)
   Last dose of Antibiotics:
   Ampicillin - [**2141-8-18**] 01:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2141-8-19**] 02:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-8-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-19**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 82 (82 - 98) bpm
   BP: 115/79(87) {103/49(60) - 123/82(91)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,886 mL
                                                                    100 mL
   PO:
                                                                  1,340 mL
             TF:
   IVF:
                                                                    546 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    300 mL
   Urine:
                                                                  1,950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
                                                                    400 mL
   Balance:
                                                                   -465 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: obese female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: normo cephalic atraumatic. Mucous membranes moist. No
   xanthalesma.
   NECK: Supple with no JVD or HJR. No Kussmaul's.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No pericardial rub. No thrills, lifts. No S3
   or S4.
   LUNGS. Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi, decreased lung sounds at bases.
   ABDOMEN: Soft, NT/ND. No guarding/rebound. No HSM.
   EXTREMITIES: no edema, no cervical,
   NEURO: no focal deficits
   PULSES:
   Right:  2+ DP 2+ PT 2+
   Left:   2+ DP 2+ PT 2+
   Labs / Radiology:
   Echo: There is a small to moderate sized pericardial effusion mostly
   located posteriorly. There are no echocardiographic signs of tamponade.
   Effusion smaller.
   HIV: Neg
   [**Doctor First Name 1205**]: Neg
   RF: 9
   CT Chest/Abd/Pelvis (wet-read):
   -Small pleural effusions bilaterally
   -2.6 cm lobulated soft-tissue lesion in the right atrium
   -No evidence of lymphadenopathy
   286 K/uL
   12.2 g/dL
   96 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   5 mg/dL
   106 mEq/L
   142 mEq/L
   36.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2141-8-18**]  05:25 AM
   WBC
   9.6
   Hct
   36.2
   Plt
   286
   Cr
   0.5
   Glucose
   96
   Other labs: PT / PTT / INR:13.9/26.3/1.2, ALT / AST:56/40, Alk Phos / T
   Bili:156/0.6, D-dimer:1789 ng/mL, Fibrinogen:552 mg/dL, LDH:273 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 44yF with pericardial effusion of unknown etiology as well as acute
   cholecystitis.
   .
   # Pericardial effusion with evidence of tamponade physiology:
   Patient had 730 cc of drained exudate fluid from pericandial cavity.
   Her symptoms at the time suggested that it could be chronic. Per
   cytology, effusion found to be malignancy associated. Pericardial fluid
   has [**Numeric Identifier 9490**] wbc with 92 pecent are highly atypical lymphocytes suspicious
   of lymphoproliferative process
   - Drain removed yesterday
   - monitor hemodynamics, monitor on telemetry
   - f/u blood cultures and pleural fluid culture
   .
   #Heme/onc:
   - cells diagnostic of lymphoma, flow cytometry pending
   -Transfer to BMT, [**Hospital Ward Name 669**] 7 today
   - labs show no evidence of DIC
   - f/u final read on CT for ddx of cardiac mass, consider cardiac MRI,
   discuss possibility of biopsy
   .
   # Acute cholecystitis: Patient presented with epigastric pain,
   bloating. RUQ U/S c/w acute cholecystitis. Slight transaminitis, bili
   normal, lipase 127. Gen [**Doctor First Name 458**] c/s rec conservative tx with abx for now.
   -Gen [**Doctor First Name 458**] following for possible need for cholecystectomy.
   - Augmentin or cipro/flagyl X 2wks, f/u w/ Dr. [**First Name (STitle) **] for interval
   cholecystectomy within 2 weeks, advance diet as tol
   -Monitor WBC and fever curve
   .
   # Hx seizure: Dilantin level low (6.8).
   -          monitor for serum dilantin level (still low today).
   -          Currently on Dilantin 300mg [**Hospital1 **] + 100 in afternoon
   -          If still low, increase afternoon dose to 200mg.
   .
   #HTN Cont HCTZ.
   .
   # CORONARIES: No hx CAD, no sx of ischemic heart disease at this time.
   .  .
   # RHYTHM: NSR
   -cont to monitor on tele
   .
   # PAIN MANAGEMENT:
   -give Tylenol for now
   .
   # h/o DVT: received IVC filter per patient as unable to anticoagulate
   at the time [**3-20**] recent neurosurgical procedure. Patient without noted
   LE edema, assymmetry.
   - SC heparin and pneumoboots
   .
   # Social/coping: requests SW c/s for obtaining SSI for nieces/nephews
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:  not an issue
   Lines:
   20 Gauge - [**2141-8-17**] 04:07 AM
   Prophylaxis:
   DVT: heparin SC and pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to BMT today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   likely lymphoma by cell type - fluid from pericardial drainage
   repeat echo today does not show significant reaccumulation
   Chest CT shows invaginating lesion associted with the lateral RA/RV
   wall - lobulated in nature
   In discussion with the oncology service this remains most consistent
   with a primary cardiac lymphoma - and priority is transfer for the
   initiation of chemotherapy
   i would favor an MRI monday( [**2141-8-21**]) to follow the size of this mass
   with chemotherapy
   Question of cholecystitis remains though does not seem to be an active
   issue at present
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **]
   on:[**2141-8-19**] 09:30 ------

2141-08-20 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2141-8-19**]
   - TTE: Decreased pericardial effusion, now small. Stable small
   bilateral pleural effusons.
   - IMHC Report:
   Pericardial fluid involvement by kappa light chain restricted
   CD10-positive monotypic B-cell lymphoproliferative process.
   Examination of cytospin reveals pleomorphic cells with vacuolated
   basophilic cytoplasm.
   - ordered cardiac MRI to characterize RA mass
   - waiting for BMT bed
   - Dilantin level 8.5, increased noon dose to 200 mg to start tomorrow
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2141-8-18**] 01:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2141-8-19**] 08:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-8-19**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-8-20**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 77 (77 - 102) bpm
   BP: 112/80(85) {95/54(27) - 123/80(86)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  1,040 mL
                                                                    120 mL
   PO:
                                                                    840 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    150 mL
   Urine:
                                                                  1,050 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GENERAL: obese female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: normo cephalic atraumatic. Mucous membranes moist. No
   xanthalesma.
   NECK: Supple with no JVD or HJR. No Kussmaul's.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No pericardial rub. No thrills, lifts. No S3
   or S4.
   LUNGS. Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi, decreased lung sounds at bases.
   ABDOMEN: Soft, NT/ND. No guarding/rebound. No HSM.
   EXTREMITIES: no edema, no cervical,
   NEURO: no focal deficits
   PULSES:
   Right:  2+ DP 2+ PT 2+
   Left:   2+ DP 2+ PT 2+
   Labs / Radiology
   287 K/uL
   12.3 g/dL
   85 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.5 mEq/L
   6 mg/dL
   107 mEq/L
   141 mEq/L
   36.2 %
   7.8 K/uL
        [image002.jpg]
                             [**2141-8-18**]  05:25 AM
                             [**2141-8-19**]  08:35 AM
                             [**2141-8-20**]  04:43 AM
   WBC
   9.6
   7.7
   7.8
   Hct
   36.2
   35.5
   36.2
   Plt
   286
   286
   287
   Cr
   0.5
   0.5
   0.5
   Glucose
   96
   82
   85
   Other labs: PT / PTT / INR:13.6/26.5/1.2, ALT / AST:56/40, Alk Phos / T
   Bili:156/0.6, D-dimer:1789 ng/mL, Fibrinogen:552 mg/dL, LDH:246 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 44yF with pericardial effusion of unknown etiology as well as acute
   cholecystitis.
   .
   # Pericardial effusion with evidence of tamponade physiology:
   Patient had 730 cc of drained exudate fluid from pericandial cavity.
   Her symptoms at the time suggested that it could be chronic. Per
   cytology, effusion found to be malignancy associated. Pericardial fluid
   has [**Numeric Identifier 9490**] wbc with 92 pecent are highly atypical lymphocytes suspicious
   of lymphoproliferative process
   - Drain removed yesterday
   - monitor hemodynamics, monitor on telemetry
   - f/u blood cultures and pleural fluid culture
   .
   #Heme/onc:
   - cells diagnostic of lymphoma, flow cytometry pending
   -Transfer to BMT, [**Hospital Ward Name 669**] 7 today
   - labs show no evidence of DIC
   - f/u final read on CT for ddx of cardiac mass, consider cardiac MRI,
   discuss possibility of biopsy
   .
   # Acute cholecystitis: Patient presented with epigastric pain,
   bloating. RUQ U/S c/w acute cholecystitis. Slight transaminitis, bili
   normal, lipase 127. Gen [**Doctor First Name 458**] c/s rec conservative tx with abx for now.
   -Gen [**Doctor First Name 458**] following for possible need for cholecystectomy.
   - Augmentin or cipro/flagyl X 2wks, f/u w/ Dr. [**First Name (STitle) **] for interval
   cholecystectomy within 2 weeks, advance diet as tol
   -Monitor WBC and fever curve
   .
   # Hx seizure: Dilantin level low (6.8).
   -          monitor for serum dilantin level (still low today).
   -          Currently on Dilantin 300mg [**Hospital1 **] + 100 in afternoon
   -          If still low, increase afternoon dose to 200mg.
   .
   #HTN Cont HCTZ.
   .
   # CORONARIES: No hx CAD, no sx of ischemic heart disease at this time.
   .  .
   # RHYTHM: NSR
   -cont to monitor on tele
   .
   # PAIN MANAGEMENT:
   -give Tylenol for now
   .
   # h/o DVT: received IVC filter per patient as unable to anticoagulate
   at the time [**3-20**] recent neurosurgical procedure. Patient without noted
   LE edema, assymmetry.
   - SC heparin and pneumoboots
   .
   # Social/coping: requests SW c/s for obtaining SSI for nieces/nephews
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:  not an issue
   Lines:
   20 Gauge - [**2141-8-17**] 04:07 AM
   Prophylaxis:
   DVT: heparin SC and pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to BMT today